US05130313
A solution of N-(1-naphthyl)methanesulphonamide (6.6 g) in dry N,N-dimethylformamide (20 cc) is added dropwise to a suspension of sodium hydride (0.9 g, 80% suspension in oil) in N,N-dimethylformamide (50 cc). After stirring for 15 minutes, a solution of 1-(3-chloropropyl)-4-(4-fluorophenyl)piperazine (7.2 g) in N,N-dimethylformamide (20 cc) is added. The reaction mixture is heated to 110° C. for 2 hours and 30 minutes and is then cooled and poured in a mixture of water (300 cc) and ethyl acetate (500 cc). The organic phase is washed with water, is diluted with dichloromethane (50 cc), is dried over magnesium sulphate and is concentrated to dryness under reduced pressure (2.7 kPa) down to 50 cc. The crystals are filtered off and washed with ethyl acetate (3×50 cc) and then with isopropyl ether (2×30 cc) and are dried. After recrystallization, from ethyl acetate (300 cc), N[3-(4-(4-fluorophenyl)- 1-piperazinyl)propyl]-N-(1-naphthyl)methanesulphonamide (4.84 g) is obtained, melting at 170° C.

reactant | N-(1-naphthyl)methanesulphonamide | 6.6 g | C1(=CC=CC2=CC=CC=C12)NS(=O)(=O)C | C11H11NO2S
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-(4-fluorophenyl)piperazine | 7.2 g | ClCCCN1CCN(CC1)C1=CC=C(C=C1)F | C13H18ClFN2
solvent | N,N-dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | water | 300 cc | O | H2O
solvent | ethyl acetate | 500 cc | C(C)(=O)OCC | C4H8O2
product | N[3-(4-(4-fluorophenyl)- 1-piperazinyl)propyl]-N-(1-naphthyl)methanesulphonamide | 4.84 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCN(S(=O)(=O)C)C1=CC=CC2=CC=CC=C12 | C24H28FN3O2S
